US08138189B2
Step 1: 2-(2-Chloro-4-methoxy-phenyl)-1-quinoxalin-6-yl-ethanone
A 2M solution of tert-butylmagnesium chloride (CAS Reg. No. 677-22-5) in diethyl ether (5.9 ml) was added to 2-chloro-4-methoxyphenylacetic acid (1.173 g, CAS Reg. No. 91367-09-8) in THF (10 ml). The mixture was stirred at room temperature for 30 min. A solution of methyl 6-quinoxalinecarboxylate (1 g, CAS Reg. No. 23088-23-5) in THF (3 ml) was added and the resulting mixture was stirred overnight. Aqueous HCl (25%, 1.5 ml) and water (30 ml) were added and extracted with EtOAc. The combined organic layers were dried over Na2SO4 and then concentrated to an oil. The residue was purified by flash chromatography (SiO2, EtOAc/heptane 1:2) to give the title compound (480 mg) as a light brown solid. MS (m/e)=313.2 [M+H+].

reactant | tert-butylmagnesium chloride | C(C)(C)(C)[Mg]Cl
reactant | 2-chloro-4-methoxyphenylacetic acid | ClC1=C(C=CC(=C1)OC)CC(=O)O | C9H9ClO3
reactant | methyl 6-quinoxalinecarboxylate | N1=CC=NC2=CC(=CC=C12)C(=O)OC | C10H8N2O2
reactant | HCl | 1.5 ml | Cl | ClH
solvent | diethyl ether | 5.9 ml | C(C)OCC | C4H10O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | 2-(2-Chloro-4-methoxy-phenyl)-1-quinoxalin-6-yl-ethanone | 480 mg | ClC1=C(C=CC(=C1)OC)CC(=O)C=1C=C2N=CC=NC2=CC1 | C17H13ClN2O2
